US20010044445A1
1-(4-nitrophenyl)-5-(2-thienyl)-3-(trifluoromethyl)-1H-pyrazole
Sodium methoxide (0.46 g, 8.52 mmol) in diethyl ether (15 mL) was added dropwise to methyl trifluoroacetate (0.82 mL mL, 7.79 mmol) in diethyl ether (10 mL). 2-Acetyl-thiophene (1 g, 7.79 mmol) in diethyl ether (10 mL) was subsequently added, and the mixture was heated to reflux for 16 hours. After cooling to room temperature, the mixture was concentrated to dryness. The crude intermediate was taken into ethanol (20 mL), and then concentrated HCl (5 mL) and 4-nitrophenylhydrazine (1.21 g, 7.79 mmol) were added followed by heating to reflux for 16 hours. The mixture was freed of solvent and used without additional purification.

reactant | Sodium methoxide | 8.52 mmol, 0.46 g | C[O-].[Na+]
reactant | methyl trifluoroacetate | 7.79 mmol, 0.82 mL | FC(C(=O)OC)(F)F | C3H3F3O2
reactant | 2-Acetyl-thiophene | 7.79 mmol, 1 g | C(C)(=O)C=1SC=CC1 | C6H6OS
reactant | HCl | 5 mL | Cl | ClH
reactant | 4-nitrophenylhydrazine | 7.79 mmol, 1.21 g | [N+](=O)([O-])C1=CC=C(C=C1)NN | C6H7N3O2
solvent | diethyl ether | 15 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 10 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 10 mL | C(C)OCC | C4H10O
product | 1-(4-nitrophenyl)-5-(2-thienyl)-3-(trifluoromethyl)-1H-pyrazole | [N+](=O)([O-])C1=CC=C(C=C1)N1N=C(C=C1C=1SC=CC1)C(F)(F)F | C14H8F3N3O2S
